US08378118B2
Step-II: Preparation of 7-Methoxy-6-(4-methoxy-phenyl)-indan-4-carbaldehyde
To a suspension of 6-Bromo-7-methoxy-indan-4-carbaldehyde (0.2 gm, 0.00078 mole), 4-Methoxyphenyl boronic acid (0.122 gm, 0.0008 mole) and Potassium carbonate (0.27 gm, 0.0019 mole) in Toluene (5 ml) and water (5 ml), Tetrakis (triphenylphosphine) palladium(0) (2 mg) was and heated to 85-90° C. and stirred for 6 hrs. Toluene was distilled off and the obtained residue was dissolved in Diethyl ether (50 ml). Further it was washed with water (20 ml) and ether was distilled under vacuum to give a crude mass which was purified by column chromatography using Ethyl acetate:Hexane (1:99) as a mobile phase. The fractions were distilled to give 50 mg of desired product as a solid.

reactant | 6-Bromo-7-methoxy-indan-4-carbaldehyde | 0.00078 mole, 0.2 gm | BrC=1C=C(C=2CCCC2C1OC)C=O | C11H11BrO2
reactant | 4-Methoxyphenyl boronic acid | 0.0008 mole, 0.122 gm | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Potassium carbonate | 0.0019 mole, 0.27 gm | C([O-])([O-])=O.[K+].[K+]
solvent | Toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 ml | O | H2O
catalyst | Tetrakis (triphenylphosphine) palladium(0) | 2 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-Methoxy-6-(4-methoxy-phenyl)-indan-4-carbaldehyde | 50 mg, Yield: 22.7% | COC1=C(C=C(C=2CCCC12)C=O)C1=CC=C(C=C1)OC | C18H18O3
